US06063782
1-(2-Butenyl)-7-(4-fluorobenylthio)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=20:80) was prepared as a pale yellow powder in 64.9% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=23/77) and 4-fluorophenylmethanethiol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 4-fluorophenylmethanethiol | FC1=CC=C(C=C1)CS | C7H7FS
product | 1-(2-Butenyl)-7-(4-fluorobenylthio)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 64.9% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)SCC2=CC=C(C=C2)F)C)C | C19H20FN3S
